US04709062
A flask was charged with 108 g of o-cresol, 101 g of N-methylolacrylamide, 5 g of 37% aqueous hydrochloric acid solution and 100 ml of acetone, and the mixture was subjected to the condensation reaction at 60° C. for 60 minutes with stirring. The obtained reaction mixture was poured into excess water to separate an organic layer. The organic layer was dissolved in 200 ml of methylene chloride, which was washed with three 100 ml portions of water to give 127 g of N-(3-methyl-4-hydroxybenzyl)acrylamide.

reactant | o-cresol | 108 g | C1(=CC=CC=C1O)C | C7H8O
reactant | N-methylolacrylamide | 101 g | C(O)NC(C=C)=O | C4H7NO2
reactant | hydrochloric acid | 5 g | Cl | ClH
reactant | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-(3-methyl-4-hydroxybenzyl)acrylamide | 127 g | CC=1C=C(CNC(C=C)=O)C=CC1O | C11H13NO2
